US06153611
Trans 2-{{4-[4-(4-fluorophenyl)-1-cyclohexyl]-1-piperazinyl}methyl]quinoline
This compound was prepared from trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]piperazine (2.4 mmole) and 2-chloromethylquinoline hydrochloride (2.4 mmole) by the method described in Example 45 to give the product (82%, mp 160-162° C.). Calc'd for C26H30FN3.0.2H2O: C, 76.70%; H, 7.53%; N, 10.32% Found: C, 76.68%; H, 7.49%; N, 10.32%.

reactant | trans 1-[4-(4-fluorophenyl)-1-cyclohexyl]piperazine | 2.4 mmole | FC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N1CCNCC1 | C16H23FN2
reactant | 2-chloromethylquinoline hydrochloride | 2.4 mmole | Cl.ClCC1=NC2=CC=CC=C2C=C1
product | Trans 2-{{4-[4-(4-fluorophenyl)-1-cyclohexyl]-1-piperazinyl}methyl]quinoline | 82% | FC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)N1CCN(CC1)CC1=NC2=CC=CC=C2C=C1 | C26H30FN3
